US06987104B2
Step 3: 2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester (E-4)
To a solution of TMS-triazole (14.17 g, 100.3 mmol, 1 equiv.) in sulfolane (290 mL) at rt under nitrogen, is added dropwise Z-L-Pro-Cl (26.85 g, 100.3 mmol, 1 equiv.) in sulfolane (70 mL). The resulting mixture is stirred at rt for 30 minutes, then the temperature is elevated to 140° C. for 3 hours. After the reaction mixture is cooled to rt, poured into excess brine and extracted with diethyl ether. The diethyl ether extracts are washed with brine, dried over anhydrous Na2SO4, filtered and evaporated. The residue is purified by flash chromatography (DCM:acetone=9:1) to give the title compound as a light yellow oil.

reactant | TMS-triazole | 100.3 mmol, 14.17 g, 1 equiv. | [Si](C)(C)(C)C=1N=NNC1 | C5H11N3Si
reactant | Z-L-Pro-Cl | 100.3 mmol, 26.85 g, 1 equiv. | N1([C@H](C(=O)Cl)CCC1)C(=O)OCC1=CC=CC=C1 | C13H14ClNO3
solvent | sulfolane | 290 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulfolane | 70 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | brine | [Cl-].[Na+].O
product | 2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C=1OC=CN1 | C15H16N2O3
